US04863914
--A solution of α-bromotoluic acid (1.08 g) in dry benzene (10 ml) was stirred for 2 hours with thionyl chloride (0.73 ml) and dry DMF (five drops). The reaction mixture was evaporated to dryness, taken up in toluene and evaporated again. The crude product was crystallized from n-hexane (10 ml, charcoal) thereby obtaining pure α-bromotoluic acid chloride (0.95 g) as white flakes.

reactant | α-bromotoluic acid | 1.08 g | BrCC=1C(=CC=CC1)C(=O)O | C8H7BrO2
reactant | thionyl chloride | 0.73 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | DMF | five drops | CN(C)C=O | C3H7NO
product | α-bromotoluic acid chloride | 0.95 g | BrCC=1C(=CC=CC1)C(=O)Cl | C8H6BrClO
